US07410963B2
3-[7-(2-Chloro-phenyl)-8-methoxy-1-methyl-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl]-benzonitrile
Prepared from 3-(7-bromo-8-methoxy-1-methyl-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-benzonitrile Intermediate 9 using the same method described for Example 1 and instead of using benzene boronic acid, we used o-chlorophenyl boronic acid. The title compound (107 mg) was obtained as a white solid, (yield=66%).

reactant | 3-(7-bromo-8-methoxy-1-methyl-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-benzonitrile | BrC1=CC2=C(N(C(CN=C2C=2C=C(C#N)C=CC2)=O)C)C=C1OC | C18H14BrN3O2
reactant | benzene boronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | o-chlorophenyl boronic acid | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
product | 3-[7-(2-Chloro-phenyl)-8-methoxy-1-methyl-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl]-benzonitrile | 107 mg, yield=66% | ClC1=C(C=CC=C1)C1=CC2=C(N(C(CN=C2C=2C=C(C#N)C=CC2)=O)C)C=C1OC | C24H18ClN3O2
